US09283224B2
Step 5: [5-Chloro-2-(propan-2-yl)phenyl]boronic acid
i-Propylmagnesium chloride (2 M in THF, 3.34 mL, 6.7 mmol) was added drop wise to a solution of 4-chloro-2-iodo-1-(propan-2-yl)benzene (1.7 g, 6.7 mmol) in dry THF (15 mL) at −30° C. and the reaction mixture was stirred at the same temperature for 30 min, under argon. After this time, trimethylborate (1.35 mL, 12.1 mmol) was added drop wise and the reaction mixture was stirred at the same temperature for 1.5 h. HCl (1 M, 6 mL) was added and the reaction mixture extracted with EtOAc (3×20 mL). The combined organic layers were dried over sodium sulfate and, after removal of the solvent, a solid was obtained, which was triturated with hexane to obtain the title compound as a white solid (1.05 g, 87%).

reactant | i-Propylmagnesium chloride | 6.7 mmol, 2 M, 3.34 mL | C(C)(C)[Mg]Cl
reactant | 4-chloro-2-iodo-1-(propan-2-yl)benzene | 6.7 mmol, 1.7 g | ClC1=CC(=C(C=C1)C(C)C)I | C9H10ClI
reactant | trimethylborate | 12.1 mmol, 1.35 mL | COB(OC)OC | C3H9BO3
reactant | HCl | 1 M, 6 mL | Cl | ClH
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | [5-Chloro-2-(propan-2-yl)phenyl]boronic acid | 1.05 g, 87% | ClC=1C=CC(=C(C1)B(O)O)C(C)C | C9H12BClO2
